US06511997B1
Synthesis of 5-(4-fluorophenyl)-1-methyl-3-phenylacetylamino-4-(4-pyridyl)pyrazole
338 mg of 3-amino-5-(4-fluorophenyl)-1-methyl-4-(4-pyridyl)pyrazole was dissolved in 20 ml of a tetrahydrofuran, followed by the addition of 140 mg of triethylamine. Then, 5 ml of a tetrahydrofuran solution containing 214 mg of phenylacetyl chloride was added dropwise thereto, followed by stirring at room temperature overnight. After the addition of water, the reaction mixture was extracted with chloroform. After the organic layer was washed with water and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography using 80 g of silica gel [with an elution solvent comprising chloroform-methanol (40:1)]. Thus, 310 mg (64% yield) of the title compound was obtained as pale-yellow crystals.

reactant | 3-amino-5-(4-fluorophenyl)-1-methyl-4-(4-pyridyl)pyrazole | 338 mg | NC1=NN(C(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F)C | C15H13FN4
reactant | triethylamine | 140 mg | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 214 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(4-fluorophenyl)-1-methyl-3-phenylacetylamino-4-(4-pyridyl)pyrazole | 310 mg, 64% yield | FC1=CC=C(C=C1)C1=C(C(=NN1C)NC(CC1=CC=CC=C1)=O)C1=CC=NC=C1 | C23H19FN4O
